US06333336B1
b) 2,5-Dihydro-2-phenyl-7-propylpyrazolo[4,3-c]pryidin-3-one
A mixture of ethyl 4-chloro-3-propyl-5-pyridinecarboxylate (0.5123 g, 2.25 mmol) and phenylhydrazine (0.32 ml, 3.25 mmol) in anhydrous 1-butanol (18 ml) was stirred at reflux under nitrogen for 50 h. The solvent was removed in vacuo and the residue was purified by flash chromatography (silica gel, 5-10% MeOH/CH2Cl2) to give 0.4767 g (84%) of the title compound as a yellow solid; mp 221-224° C. (CH2Cl2-EtOAc-hexane); 1H NMR (360 MHz, DMSO-d6) δ0.95 (3H, t, J 7.3 Hz), 1.77 (2H, m), 2.63 (2H, t, J 7.3 Hz), 7.15 (1H, t, J 7.4 Hz), 7.36 (1H, s), 7.42 (2H, t, J 7.4 Hz), 8.19 (2H, d, J 7.5 Hz), 8.47 (1H, s), 12.14 (1H, br s); MS (ES+) m/z 254 [MH]+. Anal. found: C, 71.22; H, 5.59; N, 16.45. C15H15N3O requires: C, 71.13; H, 5.97; N, 16.59%.

reactant | ethyl 4-chloro-3-propyl-5-pyridinecarboxylate | 2.25 mmol, 0.5123 g | ClC1=C(C=NC=C1C(=O)OCC)CCC | C11H14ClNO2
reactant | phenylhydrazine | 3.25 mmol, 0.32 ml | C1(=CC=CC=C1)NN | C6H8N2
solvent | 1-butanol | 18 ml | C(CCC)O | C4H10O
product | 2,5-Dihydro-2-phenyl-7-propylpyrazolo[4,3-c]pryidin-3-one | 0.4767 g, 84% | C1(=CC=CC=C1)N1N=C2C(=CNC=C2CCC)C1=O | C15H15N3O
